US07618961B2
Ethyl (2-{[(3-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 3-methylbenzenesulfonyl chloride according to METHOD A, giving 0.51 g (75%) of a pink powder: MS (electrospray, [M−H]−) m/z 339.2.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 3-methylbenzenesulfonyl chloride | CC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO2S
product | Ethyl (2-{[(3-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | CC=1C=C(C=CC1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C14H16N2O4S2
